US07192948B2
2-Hydroxy-1,9-dioxo-5,6,7,8,9,10-hexahydro-1H-4,4b,8a,10a-tetraaza-phenanthrene-3-carboxylic acid ethyl ester.
A solution of intermediate 24, 2-benzyloxy-1,9-dioxo-5,6,7,8,9,10-hexahydro-1H-4,4b,8a, 10a-tetraaza-phenanthrene-3-carboxylic acid ethyl ester (0.396 g, 1.0 mmol) in trifluoroacetic acid (5 mL) was stirred for 18 hours. The reaction was dried in vacuo to give the title compound as an oil which partially crystallized upon standing. 1H NMR (500 MHz, CDCl3) δ ppm: 10.35 (1H, br s), 4.63 (2H, s), 4.45 (2H, q, J=7.0 Hz), 3.83–3.88 (2H, m,), 3.72–3,76 (2H, m), 1.90–1.97 (2H, m), 1.76–1.83 (2H, m), 1.43 (3H, t, J=6.7 Hz). HRMS (ESI) calcd for C13H17N4O5 (M+H) 309.1199. found 309.1207.

reactant | 2-benzyloxy-1,9-dioxo-5,6,7,8,9,10-hexahydro-1H-4,4b,8a, 10a-tetraaza-phenanthrene-3-carboxylic acid ethyl ester | 1.0 mmol, 0.396 g | C(C)OC(=O)C1=C(C(N2CC(N3CCCCN3C2=N1)=O)=O)OCC1=CC=CC=C1 | C20H22N4O5
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Hydroxy-1,9-dioxo-5,6,7,8,9,10-hexahydro-1H-4,4b,8a,10a-tetraaza-phenanthrene-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C(N2CC(N3CCCCN3C2=N1)=O)=O)O | C13H16N4O5
